US06809097B1
Sodium hydride (2.7 g, 67.5 mmol) was suspended in NMP (75 ml) and benzyl alcohol (7.3 g, 67.6 mmol) was added over 10 minutes. When the addition was complete the solution was stirred at 50° C. for 30 minutes. 4-Amino-3-chlorobenzonitrile (10.3 g, 67.5 mmol), (Synthesis 1985, 669), was added and the mixture was heated at 120-130° C. for 4 hours. After cooling to ambient temperature the mixture was partitioned between water and ether. The ether extracts were washed with brine, dried (MgSO4), the insoluble materials were removed by filtration and the volatiles were removed by evaporation. The crude product was purified by flash chromatography eluting with ether/isohexanes (1/1 increasing to 1/0). The purified product was recrystallized from ethyl acetate/isohexanes to give 4-amino-3-benzyloxybenzonitrile (4.7 g, 31%).

reactant | Sodium hydride | 67.5 mmol, 2.7 g | [H-].[Na+]
reactant | benzyl alcohol | 67.6 mmol, 7.3 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 4-Amino-3-chlorobenzonitrile | 67.5 mmol, 10.3 g | NC1=C(C=C(C#N)C=C1)Cl | C7H5ClN2
solvent | NMP | 75 ml | CN1CCCC1=O | C5H9NO
product | 4-amino-3-benzyloxybenzonitrile | 4.7 g, 31% | NC1=C(C=C(C#N)C=C1)OCC1=CC=CC=C1 | C14H12N2O
